US07618959B2
a) 6-Vinyl-4H-benzo[1,4]thiazin-3-one
To a stirred suspension of triphenylmethylphosphonium bromide (20.0 mmole) in dry THF (40 mL) at RT was added 2.5 M n-BuLi (7.5 mL, 3.0 mmole). After 3 h, 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxaldehyde (1.93 g, 10.0 mmole) was added and the reaction contents were stirred at RT overnight. The reaction solution was filtered and the filtrate concentrated, dissolved in EtOAc and washed with 1 M HCl (20 mL). The organic solution was dried (Na2SO4) and concentrated under vacuum. Purification on silica (EtOAc/hexanes, 1:4) afforded the title compound (1.20 g, 63%) as light yellow solid: LC-MS (ES): m/e 192 (M+H)+.

reactant | triphenylmethylphosphonium bromide | 20.0 mmole | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | n-BuLi | 3.0 mmole, 2.5 M, 7.5 mL | [Li]CCCC
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxaldehyde | 10.0 mmole, 1.93 g | O=C1CSC2=C(N1)C=C(C=C2)C=O | C9H7NO2S
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 6-Vinyl-4H-benzo[1,4]thiazin-3-one | 1.20 g, 63% | C(=C)C=1C=CC2=C(NC(CS2)=O)C1 | C10H9NOS
